US07297509B2
4-Chloro-2-methyl-2-buten-1-al-dimethyl-acetal
(E)-3-Formyl-2-buten-1-diphosphate triammonium salt (Davisson et al. (1986) J. Org. Chem., 51, 4768) To a solution of 4-chloro-2-methyl-2-buten-1-al-dimethyl-acetal chloride (25 mg, 0.15 mmol) in 250 μl of MeCN a solution of 0.162 g (0.18 mmol) of tris(tetra-n-butylammonium) hydrogen pyrophosphate in 400 μL of MeCN was added slowly at room temperature, leading to an orange-red solution. After 2 h the reaction was finished and the solvent was removed under reduced pressure. The orange oil was dissolved in 3 mL of H2O and passed through a column of DOWEX 50 WX8 (1□4 cm) cation-exchange resin (NH4+ form) that has been equilibrated with 20 mL of 25 mM NH4HCO3. The column was eluted with 20 mL of 25 mM NH4HCO3. The resulting solution was lyophilized. The obtained solid was dissolved in 2 ml water and acidified with aqueouus HCl to pH=3. After 2 minutes the solution was neutralized and lyophylisized.

reactant | 4-chloro-2-methyl-2-buten-1-al-dimethyl-acetal chloride | 0.15 mmol, 25 mg | [Cl-].COC(C(=CCCl)C)OC
reactant | tris(tetra-n-butylammonium) hydrogen pyrophosphate | 0.18 mmol, 0.162 g | OP([O-])(=O)OP(=O)([O-])[O-].C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | MeCN | 250 μl | CC#N | C2H3N
solvent | MeCN | 400 μL | CC#N | C2H3N
product | 4-Chloro-2-methyl-2-buten-1-al-dimethyl-acetal | COC(C(=CCCl)C)OC | C7H13ClO2
